US09056874B2
(±)-2-(1-Amino-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a mixture of (±)-N-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide and (±)-N-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide (0.63 g, 0.840 mmol), was added 1.25 M HCl in MeOH (14.00 mL, 16.80 mmol) and the reaction mixture was then heated to 60° C. for 2 h. The reaction mixture was then evaporated directly, basified with ammonium hydroxide and directly loaded onto silica gel and purified by FCC and eluted with heptane/EtOAc 1:1 to give the title compound. MS (ESI−) m/z 514.2 (M−1).

reactant | (±)-N-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(C2=C3C=CN(C3=C(C=C2SC)C)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)C(C)(C)C)COCC[Si](C)(C)C)C1 | C37H47N5O4S3Si
reactant | (±)-N-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.840 mmol, 0.63 g | C(#N)C1=CC2=C(N(C(=N2)C(C)(C2=C3C=CN(C3=C(C=C2SC)C)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)C(C)(C)C)COCC[Si](C)(C)C)C=C1 | C37H47N5O4S3Si
reactant | HCl | 1.25 M | Cl | ClH
reactant | MeOH | 16.80 mmol, 14.00 mL | CO | CH4O
product | (±)-2-(1-Amino-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C)(C1=C2C=CN(C2=C(C=C1SC)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C27H25N5O2S2
